* sg13g2_IOPadAnalog

* Split from sg13g2_io_devices.spi on 2026-08-03; contains sg13g2_IOPadAnalog and its
* 14 supporting subckts. Edit the source netlist, not this file.


* Autogenerated file; please don't edit
* date: 2024-05-27 14:30:57.050559

************************************************************************
*
* Copyright 2024 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************



* sg13g2_GuardRing_P576W948HFF
.subckt sg13g2_GuardRing_P576W948HFF conn

.ends sg13g2_GuardRing_P576W948HFF

* sg13g2_GuardRing_P456W948HFF
.subckt sg13g2_GuardRing_P456W948HFF conn

.ends sg13g2_GuardRing_P456W948HFF

* sg13g2_GuardRing_N1324W456HTF
.subckt sg13g2_GuardRing_N1324W456HTF conn

.ends sg13g2_GuardRing_N1324W456HTF

* sg13g2_SecondaryProtection
.subckt sg13g2_SecondaryProtection iovdd iovss pad core
RR pad core iovss rppd l=2u w=1u
Xguard1 iovss sg13g2_GuardRing_P576W948HFF
DDN iovss core dantenna A=1.984p P=7.48u
Xguard2 iovss sg13g2_GuardRing_P456W948HFF
DDP core iovdd dpantenna A=3.1872p P=11.24u
Xguard3 iovdd sg13g2_GuardRing_N1324W456HTF
.ends sg13g2_SecondaryProtection

* sg13g2_GuardRing_N7276W2716HFF
.subckt sg13g2_GuardRing_N7276W2716HFF conn

.ends sg13g2_GuardRing_N7276W2716HFF

* sg13g2_DCNDiode
.subckt sg13g2_DCNDiode anode cathode guard
Ddcdiode_0 anode cathode dantenna A=35.0028p P=58.08u
Ddcdiode_1 anode cathode dantenna A=35.0028p P=58.08u
Xguard guard sg13g2_GuardRing_N7276W2716HFF
.ends sg13g2_DCNDiode

* sg13g2_GuardRing_P7276W2716HFF
.subckt sg13g2_GuardRing_P7276W2716HFF conn

.ends sg13g2_GuardRing_P7276W2716HFF

* sg13g2_DCPDiode
.subckt sg13g2_DCPDiode anode cathode guard
Ddcdiode_0 anode cathode dpantenna A=35.0028p P=58.08u
Ddcdiode_1 anode cathode dpantenna A=35.0028p P=58.08u
Xguard guard sg13g2_GuardRing_P7276W2716HFF
.ends sg13g2_DCPDiode

* sg13g2_GuardRing_N16000W1980HFF
.subckt sg13g2_GuardRing_N16000W1980HFF conn

.ends sg13g2_GuardRing_N16000W1980HFF

* sg13g2_GuardRing_P15280W1260HFF
.subckt sg13g2_GuardRing_P15280W1260HFF conn

.ends sg13g2_GuardRing_P15280W1260HFF

* sg13g2_GuardRing_P16000W3852HFF
.subckt sg13g2_GuardRing_P16000W3852HFF conn

.ends sg13g2_GuardRing_P16000W3852HFF

* sg13g2_GuardRing_N15280W3132HTF
.subckt sg13g2_GuardRing_N15280W3132HTF conn

.ends sg13g2_GuardRing_N15280W3132HTF

* sg13g2_Clamp_N20N0D
.subckt sg13g2_Clamp_N20N0D iovss iovdd pad
Mclamp_g0 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g1 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g2 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g3 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g4 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g5 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g6 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g7 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g8 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g9 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g10 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g11 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g12 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g13 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g14 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g15 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g16 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g17 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g18 iovss off pad iovss sg13_hv_nmos L=0.6u W=4.4u
Mclamp_g19 pad off iovss iovss sg13_hv_nmos L=0.6u W=4.4u
XOuterRing iovdd sg13g2_GuardRing_N16000W1980HFF
XInnerRing iovss sg13g2_GuardRing_P15280W1260HFF
RRoff iovss off iovss rppd l=3.54u w=0.5u
.ends sg13g2_Clamp_N20N0D

* sg13g2_Clamp_P20N0D
.subckt sg13g2_Clamp_P20N0D iovss iovdd pad
Mclamp_g0_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g0_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g1_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g1_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g2_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g2_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g3_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g3_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g4_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g4_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g5_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g5_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g6_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g6_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g7_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g7_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g8_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g8_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g9_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g9_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g10_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g10_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g11_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g11_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g12_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g12_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g13_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g13_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g14_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g14_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g15_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g15_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g16_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g16_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g17_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g17_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g18_r0 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g18_r1 iovdd off pad iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g19_r0 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
Mclamp_g19_r1 pad off iovdd iovdd sg13_hv_pmos L=0.6u W=6.66u
XOuterRing iovss sg13g2_GuardRing_P16000W3852HFF
XInnerRing iovdd sg13g2_GuardRing_N15280W3132HTF
RRoff iovdd off iovdd rppd l=12.9u w=0.5u
.ends sg13g2_Clamp_P20N0D

* sg13g2_IOPadAnalog
* FITS TO SCH .subckt sg13g2_IOPadAnalog vss vdd iovss iovdd pad padres
.subckt sg13g2_IOPadAnalog iovdd iovss pad padbare padres vdd vss
Xnclamp vss iovdd pad sg13g2_Clamp_N20N0D
Xpclamp vss iovdd pad sg13g2_Clamp_P20N0D
Xdcndiode vss pad iovdd1 sg13g2_DCNDiode
Xdcpdiode pad iovdd vss sg13g2_DCPDiode
Xsecondprot iovdd vss pad padres sg13g2_SecondaryProtection
.ends sg13g2_IOPadAnalog
